US08466122B2
A 100 mL round bottom flask was charged with magnesium turnings (360 mg, 14.6 mmol) and a stir bar. The flask was dried with a heat gun for 5 minutes then cooled under nitrogen. The flask was charged with THF (5 mL) and a small grain of iodine. A solution of linoleyl bromide (4 g, 12.1 mmol) in THF (5 mL) was added slowly and after 5 minutes the reaction initiated vigorously. The solution was stirred at room temperature for 2 hours, and then ethyl glyoxalate (0.5 mL, 2.42 mmol, 50% solution in toluene) was added. The exothermic reaction was finished immediately and quenched with saturated ammonium chloride solution (5 mL). The solution diluted with water and extracted with diethyl ether (3×50 mL). The combined diethyl ether extracts were dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The oil was purified by column chromatography on silica gel 60 (eluted with 100% Hexanes to 15% Et2O in hexanes) to afford (6Z,9Z,29Z,32Z)-19-((9Z,12Z)-octadeca-9,12-dienyl)octatriaconta-6,9,29,32-tetraene-19,20-diol as a colorless oil (945 mg, 48%).

reactant | magnesium | 14.6 mmol, 360 mg | [Mg] | Mg
reactant | linoleyl bromide | 12.1 mmol, 4 g | C(CCCCCCC\C=C/C\C=C/CCCCC)Br | C18H33Br
reactant | ethyl glyoxalate | 2.42 mmol, 0.5 mL | C(C=O)(=O)OCC | C4H6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6Z,9Z,29Z,32Z)-19-((9Z,12Z)-octadeca-9,12-dienyl)octatriaconta-6,9,29,32-tetraene-19,20-diol | 945 mg, 48% | C(CCCCCCC\C=C/C\C=C/CCCCC)C(CCCCCCCC\C=C/C\C=C/CCCCC)(C(CCCCCCCC\C=C/C\C=C/CCCCC)O)O | C56H102O2
